Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Quinine / Penicillins
 
Attending: ___.
 
Chief Complaint:
Left cerebellar cavernous malformation 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a ___ year old gentleman who presented to an OSH for 
evaluation of one week of worsening expressive aphasia and 3 
days of gait difficulty. The patient has a history of a small 
left cerebella developmental venous abnormality with associated 
cavernous malformation that has been treated conservatively by 
Dr ___. Today workup revealed a small left cerebellar bleed 
in the location of the known abnormality. he was transferred to 
___ for further management and care. 
 
Past Medical History:
HTN, peripheral neuropathy, and gout
 
Social History:
___
Family History:
Father deceased at age ___ from "something neurologic"
 
Physical Exam:
On discharge: AOx3, EO spontaneous, PERRL ___ bilaterally, face 
symmetric, tongue midline, EOM intact. MAE with full strength 
___. Continues with word finding difficulty and mild expressive 
aphasia. Denies diplopia. 
 
Pertinent Results:
MRI head ___: The left cerebellar cavernous malformation has 
increased in size compared to  the prior study but demonstrates 
chronic blood products without evidence of  acute or subacute 
hemorrhage.  Mild surrounding FLAIR hyperintensities are seen 
without hydrocephalus. 

 
Brief Hospital Course:
On ___, the patient was neurologically and hemodynamically 
stable. The patient was ordered an MRI which demonstrated the 
cavernous sinus malformation had increased since the most 
previous MRI, however the blood visible was thought to be 
chronic rather than acute or subacute. Dr. ___ this 
with the patient and decided to have the patient follow up and 
an outpatient with Dr. ___ 2 weeks of discharge.

On ___ the patient remained neurologically stable. He denies 
headaches, denies diplopia. The patient was ambulating 
independently to the bathroom and tolerating an oral diet. He 
was alert and oriented x3, and continues with word finding 
difficulty and mild expressive aphasia although repetition was 
intact. The patient was tolerating an oral diet and was 
evaluated by occupational therapy prior to discharge home. 
Occupational therapy felt the patient was safe for discharge 
home with outpatient occupational therapy, physical therapy and 
speech therapy. The patient and his wife were in agreement with 
this plan and the patient was discharged home. 
 
Medications on Admission:
crestor 10mg daily, Lotrel ___ daily, allopurinol ___ daily, 
HCTZ 25 daily, labatelol 300mg BID
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever/pain 
2. Allopurinol ___ mg PO DAILY 
3. Amlodipine 5 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Labetalol 300 mg PO BID 
6. Rosuvastatin Calcium 10 mg PO QPM 
7. Lisinopril 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L cerebellar IPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Brain Hemorrhage without Surgery

Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• You may have difficulty paying attention, concentrating, and 
remembering new information.
• Emotional and/or behavioral difficulties are common. 
• Feeling more tired, restlessness, irritability, and mood 
swings are also common.
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
• Headache is one of the most common symptom after a brain 
bleed. 
• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
• Fever greater than 101.5 degrees Fahrenheit
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___